US04337270
In a mixture of 3.2 g of methyl 4,5-dimethoxyanthranilate in 30 ml of chloroform is dissolved 3 ml of triethylamine, and to this solution is added a solution of 3.45 g of 3,4,5-trimethoxybenzoylchloride in chloroform under cooling. The mixture is stirred at room temperature for 4 hours. The reaction mixture is concentrated under a reduced pressure and to the residue is added water. The precipitated crystals are recrystallized from a mixture of dimethylformamide and ethanol to obtain 4.8 g of methyl N-(3,4,5-trimethoxybenzoyl)-4,5-dimethoxyanthranilate as pale yellow prisms.

reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoylchloride | 3.45 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | methyl 4,5-dimethoxyanthranilate | 3.2 g | COC=1C=C(C(C(=O)OC)=CC1OC)N | C10H13NO4
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl N-(3,4,5-trimethoxybenzoyl)-4,5-dimethoxyanthranilate | 4.8 g | COC=1C=C(C(=O)NC=2C(C(=O)OC)=CC(=C(C2)OC)OC)C=C(C1OC)OC | C20H23NO8
